US04503160
A mixture of 12.495 grams of recrystallized 4-allyloxy-2-hydroxybenzophenone (AHBP), 8.215 grams of triethoxysilane and 0.20 grams of the platinum substituted silica gel of Example 1 was heated at 90° C. It was found that the AHBP melted around 55° C. The reaction mixture became yellow and homogeneous. The temperature of the reaction mixture then quickly rose to 130° C. and then dropped to 90° C. After heating the mixture of an additional hour at about 90° C., the mixture was allowed to cool to 23° C., diluted with 50 ml of hexane and then filtered. The platinum substituted silica gel was recovered as a free-flowing tan powder. The filtrate was concentrated on a rotary evaporator and 20 grams of a yellow oil, a quantitative yield of product was recovered. Based on method of preparation and reverse phase TLC, 4/1;ethanol/water, the product was 4-(3'-triethoxysilylpropoxy)-2-hydroxybenzophenone (SHBP). A trace amownt of 2,4-dihydroxybenzophenone was also obtained. The 1H NMR spectrum of the SHBP was found to be identical to a spectrum of SHBP prepared from AHBP and triethoxysilane using a platinum catalyst shown by Karstedt, U.S. Pat. No. 3,775,452.

reactant | 4-(3'-triethoxysilylpropoxy)-2-hydroxybenzophenone | C(C)O[Si](CCCOC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)O)(OCC)OCC | C22H30O6Si
solvent | ethanol water | C(C)O.O
product | 2,4-dihydroxybenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
